US09388189B2
(S)—N-(3-hydroxy-5-(4-((1-(4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)methanesulfonamide
(S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (160 mg, 0.28 mmol) was treated with N-(3-hydroxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methanesulfonamide (220 mg, 0.70 mmol), sodium carbonate (86.3 mg, 0.81 mmols) and bis(triphenylphosphine)palladium(II) dichloride (81.8 mg, 0.1 mmol) according to the method described in Preparation 62. The residue was purified using SP1® Purification System (0% to 80%, hexane-ethyl acetate) to give 160 mg (79% yield) of the title compound. Purity 94%.

reactant | (S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.28 mmol, 160 mg | BrC1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=CC=C1)COCC[Si](C)(C)C | C26H30BrN7O2Si
reactant | N-(3-hydroxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methanesulfonamide | 0.70 mmol, 220 mg | OC=1C=C(C=C(C1)B1OC(C(O1)(C)C)(C)C)NS(=O)(=O)C | C13H20BNO5S
reactant | sodium carbonate | 0.81 mmols, 86.3 mg | C([O-])([O-])=O.[Na+].[Na+]
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.1 mmol, 81.8 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (S)—N-(3-hydroxy-5-(4-((1-(4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)methanesulfonamide | 160 mg, 79% yield | OC=1C=C(C=C(C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=CC=C1)COCC[Si](C)(C)C)NS(=O)(=O)C | C33H38N8O5SSi
